US06495546B1
A mixture of 4-oxiranylmethoxy-1,3-dihydro-2-benzimidazolone (82.5 mg) and N-benzyl-(6,7,8,9-tetrahydro-2-hydroxy-5H-benzocyclohepten-6-yl)amine (107 mg) in ethanol (1.5 ml) was stirred under reflux for 13 hours, cooled to room temperature and evaporated in vacuo. The residue was chromatographed (dichloromethane-methanol)by silica gel (4.2 g) to afford 1-[N-benzyl-N-(6,7,8,9-tetrahydro-2-hydroxy-5H-benzocyclohepten-6-yl) amino]-3-(1,3-dihydro-2-benzoimidazolon-4-yloxy)-2-propanol (123 mg) as a colorless powder.

reactant | 4-oxiranylmethoxy-1,3-dihydro-2-benzimidazolone | 82.5 mg | O1C(C1)COC1=CC=CC=2NC(NC21)=O | C10H10N2O3
reactant | N-benzyl-(6,7,8,9-tetrahydro-2-hydroxy-5H-benzocyclohepten-6-yl)amine | 107 mg | C(C1=CC=CC=C1)NC1CC2=C(CCC1)C=C(C=C2)O | C18H21NO
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
product | 1-[N-benzyl-N-(6,7,8,9-tetrahydro-2-hydroxy-5H-benzocyclohepten-6-yl) amino]-3-(1,3-dihydro-2-benzoimidazolon-4-yloxy)-2-propanol | 123 mg | C(C1=CC=CC=C1)N(C1CC2=C(CCC1)C=C(C=C2)O)CC(COC2=CC=CC=1NC(NC12)=O)O | C28H31N3O4
